US08084448B2
B. 3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzofuran
To a solution of trifluoromethanesulfonic acid benzofuran-3-yl ester (half of the amount from step A) in THF is added triethylamine (732 mg, 7.23 mmol), 4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (3.2 mL of a 1.0M in THF, 3.2 mmol) and Pd(dppf)Cl2.CH2Cl2 (76 mg, 0.096 mmol). The mixture is heated at 150° C. under microwave conditions for 3 min. The mixture is filtered and the filtrate evaporated under reduced pressure. The residual oil is purified by flash chromatography using hexane/EtOAc (9:1) as eluent to give the title compound.

reactant | trifluoromethanesulfonic acid benzofuran-3-yl ester | O1C=C(C2=C1C=CC=C2)OS(=O)(=O)C(F)(F)F | C9H5F3O4S
reactant | triethylamine | 7.23 mmol, 732 mg | C(C)N(CC)CC | C6H15N
reactant | 4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | CC1(OBOC1(C)C)C | C6H13BO2
reactant | CH2Cl2 | 0.096 mmol, 76 mg | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzofuran | CC1(OB(OC1(C)C)C1=COC2=C1C=CC=C2)C | C14H17BO3
